US07122545B2
0.5 g 2,3-Diamino-6-methyl pyridine (4.0 mmol) and 0.37 g glycolic acid were heated at 150° C. for 1 h. The residue was suspended in chloroform (7.0 ml) treated with 1.5 ml thionyl chloride (20 mmol)for 4 h at reflux. The mixture was evaporated and the residue triturated with methanol. After concentration the residue was stirred over night in ether and the suspension was then filtered. The residue on the filter was dried to yield 0.67 g 2-chloromethyl-5-methyl-3H-imidazo[4,5-b]pyridine hydrochloride as a dark brown solid; M.p.: 225–230° C., (dec.).

reactant | 2,3-Diamino-6-methyl pyridine | 4.0 mmol, 0.5 g | NC1=NC(=CC=C1N)C | C6H9N3
reactant | glycolic acid | 0.37 g | C(CO)(=O)O | C2H4O3
reactant | thionyl chloride | 20 mmol, 1.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 7.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-5-methyl-3H-imidazo[4,5-b]pyridine hydrochloride | 0.67 g | Cl.ClCC1=NC=2C(=NC(=CC2)C)N1 | InChI=1S/C8H8ClN3.ClH/c1-5-2-3-6-8(10-5)12-7(4-9)11-6;/h2-3H,4H2,1H3,(H,10,11,12);1H
